US05856529
Step 1: Ethyl 2-allyl-3-benzyloxybenzoate
A mixture of ethyl 2-allyl-3-hydroxybenzoate (20.6 g, 100 mmol), benzyl bromide (18 g, 105 mmol), and potassium carbonate (17 g, 123 mmol), was heated in DMF to 100° C. for 18 hr. The mixture was cooled and diluted with water (500 ml), and extracted with ethyl acetate three times. The ethyl acetate extracts were dried over brine and concentrated in vacuo to a tan oil (29.6 g, 100%).

reactant | ethyl 2-allyl-3-hydroxybenzoate | 100 mmol, 20.6 g | C(C=C)C1=C(C(=O)OCC)C=CC=C1O | C12H14O3
reactant | benzyl bromide | 105 mmol, 18 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | 123 mmol, 17 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | CN(C)C=O | C3H7NO
solvent | water | 500 ml | O | H2O
product | Ethyl 2-allyl-3-benzyloxybenzoate | C(C=C)C1=C(C(=O)OCC)C=CC=C1OCC1=CC=CC=C1 | C19H20O3
